US08623898B2
N-[1-Hydroxy-3-[3-(trifluoromethoxy)phenyl]propan-2-yl]-1-methyl-N-(tetrahydro-2H-pyran-4-yl)-1H-imidazole-4-carboxamide
To a solution of methyl N-[(1-methyl-1H-imidazol-4-yl)carbonyl]-N-(tetrahydro-2H-pyran-4-yl)-3-(trifluoromethoxy)phenylalaninate (55 mg) in ethanol (2.2 mL), sodium borohydride (23 mg) was added and the resulting mixture was heated under reflux for 3 hours. To the ice-cooled reaction mixture, 1 M HCl was added dropwise and the resulting mixture was stirred for 30 minutes at room temperature. After adding water, the mixture was subjected to extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate. After filtering off the desiccant, the filtrate was concentrated under reduced pressure and the resulting residue was purified by TLC (silica gel plate; chloroform/methanol=10:1) and column chromatography (NH silica gel cartridge; chloroform) to give the titled compound (4.9 mg).

reactant | methyl N-[(1-methyl-1H-imidazol-4-yl)carbonyl]-N-(tetrahydro-2H-pyran-4-yl)-3-(trifluoromethoxy)phenylalaninate | 55 mg | CN1C=NC(=C1)C(=O)N([C@@H](CC1=CC(=CC=C1)OC(F)(F)F)C(=O)OC)C1CCOCC1 | C21H24F3N3O5
reactant | sodium borohydride | 23 mg | [BH4-].[Na+]
reactant | HCl | 1 M | Cl | ClH
reactant | water | O | H2O
solvent | ethanol | 2.2 mL | C(C)O | C2H6O
product | N-[1-Hydroxy-3-[3-(trifluoromethoxy)phenyl]propan-2-yl]-1-methyl-N-(tetrahydro-2H-pyran-4-yl)-1H-imidazole-4-carboxamide | 4.9 mg | OCC(CC1=CC(=CC=C1)OC(F)(F)F)N(C(=O)C=1N=CN(C1)C)C1CCOCC1 | C20H24F3N3O4
